Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Codeine / oxycodone
 
Attending: ___.
 
Chief Complaint:
Dyspnea on exertion and fatigue
 
Major Surgical or Invasive Procedure:
Peritoneal dialysis daily
LHC with DES to LAD

 
History of Present Illness:
___ year old male with history of ESRD ___ T2DM on peritoneal 
dialysis since ___, CML, CAD s/p PCIx4 in ___, paroxysmal 
Afib, preserved EF in ___ and recent admission in ___ with 
septic shock and pancolitis who presents with dyspnea on 
exertion and fatigue.  
 Of note, patient was most recently admitted ___ to ___ for 
septic shock secondary to pancolitis, was started on IV Abx and 
pressors with clinical improvement. Patient reports having R 
flank, R leg, and RUE pain since discharge, which has worsened 
over the past several days, and was finally unable to perform 
peritoneal dialysis the previous evening. He also reports a 
3-day history of loose stools, and an acidic/burning feeling 
with defecation. Lastly, he reports dyspnea when laying flat 
over several weeks and worsening shortness of breath exertion, 
but no dyspnea when seated upright or standing, or when at rest. 
Given these complaints he presented to ED.  
 In the ED, 5 97.8 78 ___ 97% RA  
 - Exam showed benign abdomen, with PD site clean without 
erythema, tenderness, or discharge.  
 - EKG obtained with evidence of worsening ST depression in aVL, 
1mm ST elevation in III, V1, V2 (seen on prior from ___ but 
increased magnitude).  
 - Labs were notable for Troponin T: 0.90 (baseline ~ 0.20), CK: 
159 MB: ___ MBI: 6.9. Chem 7 notable for K of 5.9. Cr of 13. HCO3 
of 19. CBC notable with WBC of 12, baseline anemia with Hgb of 
10.3 and thrombocytosis to 595.  
 - Imaging: CT ABd/Pel: 1. Moderate to large right and small to 
moderate left pleural effusions, the latter of which is mildly 
increased since prior examination. 2 areas of rounded 
atelectasis in the right middle and lower lobes appear 
unchanged. 2. No nephrolithiasis. No cause for the patient's 
right flank pain identified. 3. Extensive atherosclerotic 
calcifications. And CXR with low lung volumes but no PNA.  
 - Renal consulted: who gave recommendations for PD and asked 
for cutlures to be drawn from dialysate.  
 Cardiology was consulted who performed bedside TTE with LVEF 
___ at bedside. EKG on prior admission with one episode of 
possible AFib, concern for tachymyopathy causing decompensated 
CHF.  
 Pt became hypotensive to ___ from 110s/50s and Vanc/Zosyn 
were started. He was given 10U Insulin in ED for hyperK per 
renal, as glucose 275 held dextrose administration. Pt became 
hypotensive to ___ from 110s/50s and Vanc/Zosyn were started 
and he was given 500cc bolus.  
 Decision was made to admit to cardiology for management of 
NSTEMI and new reduced EF.  
 On the floor, Mr. ___ continues to complain of his chronic 
right flank pain but reports he otherwise feels well
 
Past Medical History:
-ESRD on peritoneal dialysis
-TIIDM
-CML
-CAD s/p 4 stents in ___
-HTN
-anemia

 
Social History:
___
Family History:
Mother - died at ___ from diabetes
Father - died of CAD at ___
Sibs - 2 sisters 2 bothers - one with GI symptoms.
Children - 2 daughters well

 
Physical ___:
ADMISSION
Vitals: 102.7kg 98.0 100/47 81 18 98RA 
Tele: NSR but with frequent PACS and PVCs   
General: Well appearing gentleman in NAD. 
HEENT: EOMI, anicteric sclera. OP clear  
Neck: JVP 3cm above clavicle at 90 degrees.  
CV: Irregularly irregular (correspond to PACs), normal S1, S2. I 
do no Appreciate any m/r/g  
Lungs: CTAB but decreased breath sounds and poor air movement, 
especially posteriorly.  
Abdomen: Benign abdomen with clean PD catheter, no 
rebound/guarding  
GU: No foley  
Extr: Slightly cool, but 1+ distal pulses. 1+ ___ edema.  
Neuro: Grossly intact  
Skin: No rashes

DISCHARGE
Vitals: T 98.7 BP 156/98 HR 88 R 22 SpO2 97 ra
Weight: 99.9kg
General: NAD
HEENT: EOMI, anicteric sclera  
CV: RRR no M/R/G  
Lungs: CTAB 
Abdomen: NTND no rebound/guarding  
Ext: 1+ edema to shins. sensation and movement intact b/l  
Msk: R MTP of great toe erythematous, no induration
Neuro: Alert and oriented, CN II-XII intact, ___ strength 
grossly in UE and ___ bilaterally
 
Pertinent Results:
ADMISSION
___ 03:15PM BLOOD WBC-12.0* RBC-3.77* Hgb-10.3* Hct-34.4* 
MCV-91 MCH-27.3 MCHC-29.9* RDW-17.6* RDWSD-58.7* Plt ___
___ 03:15PM BLOOD Neuts-79.0* Lymphs-8.5* Monos-9.1 Eos-2.1 
Baso-0.7 Im ___ AbsNeut-9.50* AbsLymp-1.02* AbsMono-1.09* 
AbsEos-0.25 AbsBaso-0.08
___ 03:15PM BLOOD ___ PTT-32.2 ___
___ 03:15PM BLOOD Glucose-275* UreaN-86* Creat-13.7*# 
Na-134 K-5.8* Cl-88* HCO3-19* AnGap-33*
___ 03:15PM BLOOD ALT-18 AST-16 CK(CPK)-159 AlkPhos-95 
TotBili-0.1
___ 03:15PM BLOOD CK-MB-11* MB Indx-6.9*
___ 03:15PM BLOOD Albumin-3.1*
___ 05:50AM BLOOD Calcium-8.4 Phos-10.9*# Mg-2.2
___ 07:24PM BLOOD Lactate-1.7

PERTINENT
___ 03:15PM BLOOD CK-MB-11* MB Indx-6.9*
___ 03:15PM BLOOD cTropnT-0.90*
___ 08:43PM BLOOD cTropnT-0.86*

___ 05:50AM BLOOD CK-MB-10 MB Indx-7.0* cTropnT-0.93*
___ 12:11AM OTHER BODY FLUID WBC-342* RBC-133* Polys-30* 
Lymphs-10* Monos-58* Mesothe-2*
___ 10:45PM OTHER BODY FLUID WBC-17* RBC-2* Polys-32* 
Bands-2* Lymphs-24* Monos-30* Eos-2* Mesothe-2* Macro-8*

___ 03:10PM BLOOD Ret Aut-2.0 Abs Ret-0.06

___ 05:50AM BLOOD CK-MB-10 MB Indx-7.0* cTropnT-0.93*
___ 06:40PM BLOOD cTropnT-0.66*
___ 07:36PM BLOOD CK-MB-4 cTropnT-0.49*
___ 12:58AM BLOOD CK-MB-4 cTropnT-0.52*
___ 06:17AM BLOOD cTropnT-0.52*
___ 06:45AM BLOOD CK-MB-3 cTropnT-0.43*
___ 12:29AM BLOOD cTropnT-0.81*
___ 06:35AM BLOOD CK-MB-11* cTropnT-1.84*

___ 04:50AM BLOOD calTIBC-143* Ferritn-630* TRF-110*
___ 07:00AM BLOOD PTH-573*

___ 03:36PM BLOOD Lactate-2.2*
___ 07:51AM BLOOD Lactate-2.0
___ 06:44PM BLOOD Lactate-1.6

___ UricAcd-6.1

DISCHARGE
___ 06:48AM BLOOD WBC-7.8 RBC-2.73* Hgb-7.5* Hct-25.1* 
MCV-92 MCH-27.5 MCHC-29.9* RDW-17.5* RDWSD-59.3* Plt ___
___ 06:48AM BLOOD ___ PTT-26.5 ___
___ 06:48AM BLOOD Glucose-185* UreaN-51* Creat-11.6* 
Na-131* K-4.4 Cl-88* HCO3-25 AnGap-22*

STUDIES
___ CXR
IMPRESSION:  
Continued small to moderate size bilateral pleural effusions, 
larger on the right.  Bibasilar airspace opacities likely 
reflect areas of compressive atelectasis 

___ CT ABD & CHEST W/O CONTRAST
IMPRESSION: 
1. Moderate to large right and small to moderate left pleural 
effusions, the latter of which is mildly increased since prior 
examination.  2 areas of rounded atelectasis in the right middle 
and lower lobes appear unchanged. 
2. No nephrolithiasis.  No cause for the patient's right flank 
pain 
identified. 
3. Extensive atherosclerotic calcifications. 

___ EKG
Sinus tachycardia with atrial ectopy. Intraventricular 
conduction delay. Left ventricular hypertrophy with secondary 
repolarization abnormalities. Cannot exclude a prior 
anteroseptal myocardial infarction. 

___ TTE
Conclusions   
The left atrial volume index is mildly increased. There is 
severe regional left ventricular systolic dysfunction with 
inferior akinesis. There is moderate to severe hypokinesis of 
the remaining segments (LVEF = 20%). Right ventricular chamber 
size and free wall motion are normal. There is no aortic valve 
stenosis. No aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. Trivial mitral regurgitation is 
seen. The pulmonary artery systolic pressure could not be 
determined. There is no pericardial effusion. 
IMPRESSION: Limited study. Severe regional and global left 
ventricular systolic dysfunction, most c/w multivessel CAD. 
Compared with the prior study (images reviewed) of ___, LV 
function has deteriorated, although prior LV function also looks 
abnormal, with septal hypokinesis.   

___ Cardiac Cath
DES to LAD
RCA fully occluded, no stent placed

___ CT HEAD W/O CONTRAST
IMPRESSION: 
1. Residual contrast from recent cardiac catheterization limits 
diagnostic 
evaluation, there is a possible granuloma or vascular 
calcification in the 
right frontal lobe.  If there is raised clinical suspicion for 
active 
granulomatous infection, MRI with and without contrast is 
recommended. 
2. Vascular arteriosclerotic calcifications are present in the 
carotid siphons bilaterally. 
RECOMMENDATION(S):  Possible granuloma or vascular calcification 
in the right 
frontal lobe.  If there is raised clinical suspicion for active 
granulomatous 
infection, MRI with and without contrast is recommended. 

___ CT PELVIS W/O CONTRAST
IMPRESSION: 
1. No retroperitoneal bleed or other cause for patient's right 
flank pain or hypotension. 
2. Large right-sided pleural effusion and moderate left-sided 
pleural 
effusion, with atelectasis bilaterally. 

___ MRI HEAD W/O CONTRAST
IMPRESSION:  
No acute intracranial abnormality. 

___ XR R FOOT
FINDINGS:  
There are extensive vascular calcifications.  There is a 
amorphous 
calcification adjacent to the first metatarsal head, potentially 
this could
reflect a gouty tophus although there is little associated soft 
tissue 
swelling.  Small lucencies at the head of the first metatarsal 
may reflect 
erosions versus small subchondral cystic changes.  Deformity of 
the second toe proximal phalanx is consistent with an old 
fracture but correlation clinical examination findings 
recommended to exclude an acute fracture.  No other areas 
concerning for an acute fracture are seen. 

MICROBIOLOGY

___ 6:15 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

C. difficile DNA amplification assay (Final ___: 
      Reported to and read back by ___ (___) AT 10:06 
A.M. ___. 
      CLOSTRIDIUM DIFFICILE. 
         Positive for toxigenic C. difficile by the Illumigene 
DNA
         amplification.            (Reference Range-Negative). 

___ BLOOD CX: NO GROWTH
___ DIALYSIS FLUID CX: NO GROWTH
___ BLOOD CX: NO GROWTH 

 
Brief Hospital Course:
Mr. ___ is a ___ year old male with history of ESRD ___ T2DM 
on PD since ___, CML, CAD s/p PCIx4 in ___, paroxysmal Afib 
(___), preserved EF in ___ and recent admission in ___ 
for pancolitis on cipro, admitted for SOB in the setting of 
missing peritoneal dialysis, found to have volume overload and 
C. diff colitis. 

#CAD: Troponins were elevated to 0.9 from 0.2 in ___ but he 
had been asymptomatic apart from SOB and orthopnea for multiple 
weeks. Orthopnea has improved with PD. Pt has h/o paroxismal 
afib on last admission, may be ___ to tachycardia and type II 
MI. Also, given h/o CKD, trop elevation is likely exaggerated. 
Bedside Echo in ED showed new reduced EF which could be 
concerning for ischemic event though there was no focality to 
hypokinesis. We continued the home aspirin and statin. He 
subsequently developed new chest pain, and a cardiology consutl 
was called, who recommended cath. He had severely blocked L main 
and R main, s/p L DES placed in the L main, and a failed attempt 
to cannulize the R main. He was subsequently started on plavix 
after stent placement.

#R/o Stroke: After the cath, he was hypotensive in the ___ 
and developed LUE and LLE weakness concerning for stroke. CT 
non-con did not show any acute changes. However, due to 
difficulties with IV access, no contrast was obtained. Neurology 
was consulted who recommended an MRI to evaluate for possible 
stroke. At the time of discharge his neurological symptoms had 
resolved and his weakness has improved. 

# C. difficile infection:  Patient was recently hospitalized in 
___ for pancolitis and was discharged on ciprofloxacin and 
metronidazole.  Due to persistent diarrhea, C. diff was sent and 
returned positive.  He was started on po vancomycin on ___ 
which will complete on ___.

# ESRD on PD at home:  Missed 1 day due to R flank pain and not 
"feeling like it." While he was in house, we performed 
peritoneal dialysis daily.  He is followed by Dr. ___ as an 
outpatient.  EPO was continued but IV iron was held in the 
setting of C. diff.
 
# New reduced EF with volume overload: Patient had symptoms of 
volume overload, likely due to missing PD x1 day. His symptoms 
are longstanding but bedside TTE in ED suggested a new onset 
cardiomyopathy ___ to CAD. Patient has h/o paroxysmal afib 
during last hospital stay and could have developed tachycardic 
cardiomyopathy, though patient does not endorse palpitations. We 
continued home furosemide 160 mg BID. Please consider repeat TTE 
recommended as an outpatient. 

# Paroxysmal Afib with RVR: Seen on EKG on ___. He 
remained in NSR during this admission. He will need a Holter 
monitor as an outpatient and a discussion regarding 
risks/benefits of anticoagulation pending results of Holter. We 
spoke with the patient's outpatient cardiologist during this 
admission who recommended we start the patient on warfarin. We 
spoke with the patient regarding the risk of stroke, which he 
understood, however the patient declined starting warfarin at 
this time because he had seen so many people on the medication. 
We reiterated the risk of stroke and the patient understood 
saying that he will have to think about his final decision.

#Muscle Cramps/weakness: Pt is having cramping in ___ b/l on 
___. Pt says he has had these cramps before, but these are more 
intense. Likely in the setting of physical decompensation from 
missing PD and overall general mobility. We consulted ___ during 
this hospitalization, who recommended that we discharge the 
patient to rehab for mobility improvement. 

#Gout: Pt had erythema and swelling of R ___ MTP. Rheumatology 
consulted and aspirated and injected the joint with steroids. 
They recommended considering starting allopurinol as an 
outpatient once the flair subsides given his elevated uric acid 
level (>6)

CHRONIC ISSUES:  

# DMII: Held oral medications. Levemir not on formulary, so we 
continued him on equivalent dose of Lantus. 

# CAD s/p 4 stents: On ASA, Rosuvastatin 20 mg PO QPM  

# CML: On dasatinib 70mg po qd. This was held during this 
hospitalization but should be restarted on discharge. 

# HTN: Held home carvidolol in the setting of soft BPs.

Transitional Issues:
[] Patient was diagnosed with parosyxmal Afib in ___ but 
remained in NSR during this admission. Per cardiology, recommend 
obtaining Holter monitor as outpatient. These results will help 
determine whether or not he should be anticoagulated. 
[] Please repeat TTE as outpatient after resolution of acute 
illness to reassess EF.
[] Home carvedilol was held due to soft blood pressures. 
Restarted on metoprolol
[] Per renal, patient should receive Epo 40,000 units SC once 
weekly.
[]consider starting allopurinol for gout
[] desatinib was held during hospitalization, per outpatient 
oncologist, pt will restart upon discharge
Discharge Weight: 99.9 kg
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Furosemide 160 mg PO BID 
3. Nephrocaps 1 CAP PO DAILY 
4. Rosuvastatin Calcium 20 mg PO QPM 
5. Pantoprazole 40 mg PO Q24H 
6. Calcitriol 0.25 mcg PO DAILY 
7. Gabapentin 300 mg PO QHS 
8. GlipiZIDE 5 mg PO BID 
9. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
10. sevelamer CARBONATE 2400 mg PO TID W/MEALS 
11. Levemir (insulin detemir) 40 U SUBCUTANEOUS QHS 
12. TraMADOL (Ultram) 25 mg PO Q6H:PRN pain 
13. Carvedilol 25 mg PO BID 
14. DASatinib 70 mg PO QD 
15. Epoetin ___ ___ units SC WEEKLY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Furosemide 160 mg PO BID 
3. Nephrocaps 1 CAP PO DAILY 
4. Pantoprazole 40 mg PO Q24H 
5. Rosuvastatin Calcium 20 mg PO QPM 
6. sevelamer CARBONATE 2400 mg PO TID W/MEALS 
7. TraMADOL (Ultram) 25 mg PO Q6H:PRN pain 
8. Gabapentin 100 mg PO QHS 
9. Levemir (insulin detemir) 40 U SUBCUTANEOUS QHS 
10. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
11. GlipiZIDE 5 mg PO BID 
12. Aluminum Hydroxide Suspension 5 mL PO TID W/MEALS 
RX *aluminum hydroxide gel 320 mg/5 mL 5 ml by mouth three times 
a day Refills:*0
13. Cinacalcet 30 mg PO DAILY 
RX *cinacalcet [Sensipar] 30 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*1
14. Lisinopril 2.5 mg PO DAILY 
RX *lisinopril 2.5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*1
15. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*1
16. DASatinib 70 mg PO QD 
17. Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*1
18. Epoetin ___ ___ units SC WEEKLY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses: Clostridium difficile infection, end stage 
renal disease on peritoneal dialysis, demand ischemia, gout

Secondary Diagnoses: Paroxysmal atrial fibrillation, type 1 
diabetes mellitus, CML, coronary artery disease, hypertension, 
anemia of chronic disease  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital after presenting with 
abdominal distention and shortness of breath. This was due to 
fluid build up from a combination of missing peritoneal dialysis 
and heart failure as it was found your heart squeeze is 
impaired. We restarted your peritoneal dialysis. We also managed 
your pain while you were here, and consulted physical therapy to 
help with your walking and mobility. 

With regards to your new heart failure, an ultrasound showed 
that it had a pump function of 20% (normal is 55% or greater). 
To work this up, we consulted the cardiology service, who 
recommended that you obtain a cardiac catheterization to look at 
the coronary vessels. During the procedure, they found that your 
left and right sided heart vessels were both blocked, and placed 
a stent in the left, but were unable to open the right. After a 
stent was placed, they continued you on aspirin and started 
plavix to prevent clotting of the stent these are important to 
continue as directed by your cardiologist.  

We also found that you had an infectious diarrhea of your 
intestines called C. difficile. You were started on an oral 
antibiotic (vancomycin) to treat this and you got better. 

Additionally, you had pain in the joint of your big toe on your 
right foot. You were seen by rheumatology who said this was due 
to gout who injected the joint with steroids which improved your 
pain.

Because you have an intermittent abnormal heart rhythm called 
paroxysmal atrial fibrillation, we recommended blood thinners to 
reduce your risk of stroke and you decided you wanted to think 
about this decision. Please discuss this further with your 
cardiologist.

Regarding your dialysis, you will need to have the dialysis 
fluid changed to one that will help remove more fluid, however, 
that will not be able to occur for another week. Therefore, it 
is very important that you stick to very good fluid restriction 
until then.

It was a pleasure to care for you during this admission.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___